US09029560B2
Preparation of ethyl 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoate (C30)
A mixture of (E)-ethyl 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylate (C17) (1.08 g, 2.68 mmol) and palladium on carbon (10%, 0.285 g, 0.270 mmol) in ethyl acetate (10.7 mL) was stirred at room temperature. The reaction flask was evacuated under vacuum, backfilled with nitrogen, evacuated under vacuum again, and then backfilled with hydrogen by balloon (˜1 atm). The reaction was stirred at room temperature overnight and then filtered through a pad of Celite® and concentrated to afford the title compound as a gray oil that solidified to a wax upon standing at room temperature (0.999 g, 87%): 1H NMR (400 MHz, CDCl3) δ 8.56 (s, 1H), 8.14-8.07 (m, 2H), 7.80 (d, J=9.1 Hz, 2H), 7.42-7.36 (m, 2H), 7.32 (d, J=8.4 Hz, 2H), 4.14 (q, J=7.1 Hz, 2H), 3.02 (t, J=7.8 Hz, 2H), 2.67 (t, J=7.8 Hz, 2H), 1.24 (t, J=7.1 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ −58.03; ESIMS m/z 406 ([M+H]+).

reactant | (E)-ethyl 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylate | 2.68 mmol, 1.08 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)/C=C/C(=O)OCC)(F)F | C20H16F3N3O3
catalyst | palladium on carbon | 0.270 mmol, 0.285 g | [Pd] | Pd
solvent | ethyl acetate | 10.7 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoate | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CCC(=O)OCC)(F)F | C20H18F3N3O3
